US04224330
A mixture of 2-(3-benzothienyl)-3-methylbutanoic acid (3.4 mmol) and KCHO3 (3.4 mmol) on 15 ml THF/DMF (1:1) is stirred for about 15 minutes. The mesylate of α-cyano-3-phenoxybenzyl alcohol (3.4 mmol) in 5 ml THF/DMF is added and the reaction mixture stirred for about 48 hours. The reaction is worked up as in Example 2, developing with 10% ethyl acetate/hexane to yield α-cyano-3-phenoxybenzyl 2-(3-benzothienyl)-3-methylbutanoate, colorless thick liquid.

reactant | 2-(3-benzothienyl)-3-methylbutanoic acid | 3.4 mmol | S1C=C(C2=C1C=CC=C2)C(C(=O)O)C(C)C | C13H14O2S
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | α-cyano-3-phenoxybenzyl alcohol | 3.4 mmol | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF DMF | 5 ml | C1CCOC1.CN(C)C=O
solvent | THF DMF | 15 ml | C1CCOC1.CN(C)C=O
product | α-cyano-3-phenoxybenzyl 2-(3-benzothienyl)-3-methylbutanoate | S1C=C(C2=C1C=CC=C2)C(C(=O)OC(C2=CC(=CC=C2)OC2=CC=CC=C2)C#N)C(C)C | C27H23NO3S
